US07220869B2
Preparation of Octanolactam Tetrafluoroborate
To a 100 ml flask containing 14.12 g of octanolactam (0.1 mol), 30 ml water was added and stirred for dissolution. 21.95 g 40 wt % aqueous solution of tetrafluoroboric acid (0.1 mol) was added dropwise into the flask over 20 min at room temperature. Then the reaction was stirred for another 1 hour. Desired product was formed after water was removed under reduced pressure and dried at 110° C. under 1–5 mmHg for 1 hour. The colorless, slightly viscous, moisture- and water-stable liquid of octanolactam tetrafluoroborate was obtained with a yield of 96.7%, which has a glass transition temperature of −61.0° C., a density of 1.36 g/ml, a viscosity of 524 cP, an electrochemical window of 2.0 V, an ionic conductivity of 1.04×10−4 S/cm, and a Hammett acidic scale H0 of 1.32 using methyl yellow as indicator. No melting point was observed.

reactant | octanolactam | 0.1 mol, 14.12 g | C1(CCCCCCCN1)=O | C8H15NO
reactant | tetrafluoroboric acid | 0.1 mol | F[B-](F)(F)F.[H+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | Octanolactam Tetrafluoroborate | F[B-](F)(F)F.C1(CCCCCCCN1)=O | InChI=1S/C8H15NO.BF4/c10-8-6-4-2-1-3-5-7-9-8;2-1(3,4)5/h1-7H2,(H,9,10);/q;-1
